US05107057
Preparation of 2-cyano-5-methoxy-N, N-dimethyl-2,4-pentadienamide
To a 250 ml 3-necked R.B. flask was charged 50 g malonodialdehyde bis(dimethylacetal), 22.5 g N,N-dimethyl-2-cyanoacetamide, 60 g acetic anhydride, 0.5 g zinc chloride and 100 ml acetic acid. It was heated to reflux to distill off low boilers until the pot temperature reached 125° C. and head reached 110° C. and a total of 60 ml distillate was collected. GC analysis of the pot content showed disappearance of N,N-dimethyl-2-cyanoacetamide. The reaction mixture was filtered to remove zinc catalyst and then rotovapped. The pot residue was crystallized from a methanol in dry ice-acetone bath to afford 16 g (44.3%) of the title compound.

reactant | N,N-dimethyl-2-cyanoacetamide | 22.5 g | CN(C(CC#N)=O)C | C5H8N2O
reactant | acetic anhydride | 60 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | zinc chloride | 0.5 g | [Cl-].[Zn+2].[Cl-]
product | 2-cyano-5-methoxy-N, N-dimethyl-2,4-pentadienamide | 16 g, 44.3% | C(#N)C(C(=O)N(C)C)=CC=COC | C9H12N2O2
